US07410976B2
3-Amino-1-(2-Trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]triazole.
2-(4H-[1,2,4]Triazol-3-yl)-isoindole-1,3-dione (1.60 g, 7.48 mmol) was dissolved in DMF (16 ml) and NaH (55% in oil, 500 mg, 11.5 mmol) and SEMCl (2.00 g, 12.0 mmol) was added thereto at room temperature. After stirring at 50° C. for 5 h, the reaction mixture was diluted with EtOAc. The mixture was poured into diluted HCl aq. and the organic layer was washed with brine, dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was dissolved in THF (16 ml) and MeOH (16 ml), and hydrazine hydrate (561 mg, 11.2 mmol) was added thereto. After stirred at room temperature for 15 h, the mixture was concentrated in vacuo. The residue was suspended in EtOAc and the desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/EtOAc=5/5 to 0/10) to obtain the intended compound as a colorless solid.

reactant | 2-(4H-[1,2,4]Triazol-3-yl)-isoindole-1,3-dione | 7.48 mmol, 1.60 g | N=1N=C(NC1)N1C(C2=CC=CC=C2C1=O)=O | C10H6N4O2
reactant | NaH | 11.5 mmol, 500 mg | [H-].[Na+]
reactant | SEMCl | 12.0 mmol, 2.00 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | HCl | Cl | ClH
reactant | hydrazine hydrate | 11.2 mmol, 561 mg | O.NN
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 16 ml | CO | CH4O
product | 3-Amino-1-(2-Trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]triazole | NC1=NN(C=N1)COCC[Si](C)(C)C | C8H18N4OSi
